US04211702
To a slurry of 3.40 gm (10 mmol) of 7-phenoxyacetamido-3-methyl-3-cephem-4-carboxylic acid, 0.158 ml (1.34 mmol) of quinoline, and 2.38 ml (15 mmol) of N,N-diethylaniline in 30 ml. of methylene chloride at room temperature was added 2.46 ml (34.5 mmol) of acetyl chloride. The reaction mixture was allowed to stir for about 6 hours at a temperature of 18° to 22° C. The reaction mixture was then cooled to -15° C. Then 0.6 ml (3.75 mmol) of N,N-diethylaniline and a solution of the triphenyl phosphitechlorine reagent derived from 3.68 ml of triphenyl phosphite and chlorine in 15 ml of methylene chloride, were added. The reaction mixture was then removed from the cooling bath and allowed to warm to near room temperature over the next seven minutes. The reaction mixture was then cooled to -20° C. Then 10.7 ml (116 mmol) of isobutanol added. Again the reaction mixture was removed from the cooling bath. About 45 minutes after the addition of the alcohol, a copious amount of solid precipitate was observed. After an additional 1/2 hour at room temperature the reaction mixture was cooled to 0° C. and filtered to provide 1.95 gm (73%) of 7-ADCA. Some impurities were visible in an nmr spectrum of the product.

reactant | 7-phenoxyacetamido-3-methyl-3-cephem-4-carboxylic acid | 10 mmol, 3.40 gm | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=O)O)C1=O | C16H16N2O5S
reactant | quinoline | 1.34 mmol, 0.158 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | N,N-diethylaniline | 15 mmol, 2.38 ml | C(C)N(C1=CC=CC=C1)CC | C10H15N
reactant | acetyl chloride | 34.5 mmol, 2.46 ml | C(C)(=O)Cl | C2H3ClO
reactant | N,N-diethylaniline | 3.75 mmol, 0.6 ml | C(C)N(C1=CC=CC=C1)CC | C10H15N
reactant | triphenyl phosphite | 3.68 ml | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | chlorine | ClCl | Cl2
reactant | isobutanol | 116 mmol, 10.7 ml | C(C(C)C)O | C4H10O
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 7-Amino-3-methyl-3-cephem-4-carboxylic acid | 1.95 gm, 73% | NC1[C@@H]2N(C(=C(CS2)C)C(=O)O)C1=O | C8H10N2O3S
